US06977264B2
Step (b) N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylamino)carbonylamino]-phenyl}piperidyl)-2-oxoethyl]((3S)(3-1,2,3,4-tetrahydroisoquinolyl))-carboxamide
The title compound was prepared according to the procedure described in Example 3 (Step b) using tert-butyl 3-{N-[(1R)-1[(4-chlorophenyl)methyl]-2-(4-{2-[(methylamino)carbonylamino]phenyl}piperidyl)-2-oxoethyl]carbamoyl}(3S)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate (Step a) (397 mg, 0.59 mmol) and 50% TFA in CH2Cl2 (20 mL). Purification by reverse phase preparative HPLC [Phenomenex; 5 μm 250×21.2 mm, 5% to 95% CH3CN (0.1% TFA) in H2O (0.1% TFA) over 30 min, then 100% CH3CN (0.1% TFA) for 2 min] provided the title compound (TFA salt) as a white foam (266 mg). MS (ESI, pos. ion) m/z: 574 (M+1); (ESI, neg. ion) in/z: 572 (M−1). Calc'd for C32H36ClN5O3: 573.25. Anal. Calcd for C32H36ClN5O3.1.8C2HF3O2: C, 54.86; H. 4.89; N, 8.99. Found: C, 55.11; H, 5.04; N, 9.11.

reactant | tert-butyl 3-{N-[(1R)-1[(4-chlorophenyl)methyl]-2-(4-{2-[(methylamino)carbonylamino]phenyl}piperidyl)-2-oxoethyl]carbamoyl}(3S)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NC(=O)NC)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C37H44ClN5O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylamino)carbonylamino]-phenyl}piperidyl)-2-oxoethyl]((3S)(3-1,2,3,4-tetrahydroisoquinolyl))-carboxamide | 266 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NC(=O)NC)NC(=O)[C@H]1NCC2=CC=CC=C2C1 | C32H36ClN5O3
